US04507316
N-(3-Ethylthio-2-methylpropanoyl)-N-cyclopentyl glycine-ethyl ester
To a solution of 0.45 g (0.02M) of sodium in 50 ml ethanol was dropwise added a solution of 4.8 g of N-(3-mercapto-2-methyl propanoyl)-N-cyclopentyl glycine ethyl ester in 10 ml ethanol and stirring continued for 1 hour. Then, 3.04 g (0.02M) ethyl iodide in 5 ml ethanol was added and stirring continued for 4 hours. The solution was concentrated in vacuum, diluted with ether, washed with water, dried over MgSO4 and evaporated to dryness. The oily residue was chromatographed by HPLC using EtOAc-hexane (3:17) as eluent.

reactant | sodium | 0.02M, 0.45 g | [Na] | Na
reactant | N-(3-mercapto-2-methyl propanoyl)-N-cyclopentyl glycine ethyl ester | 4.8 g | C(C)OC(CN(C1CCCC1)C(C(CS)C)=O)=O | C13H23NO3S
reactant | ethyl iodide | 0.02M, 3.04 g | C(C)I | C2H5I
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-(3-Ethylthio-2-methylpropanoyl)-N-cyclopentyl glycine-ethyl ester | C(C)OC(CN(C1CCCC1)C(C(CSCC)C)=O)=O | C15H27NO3S
